US09428528B2
Step 3 Preparation of N-(5-Bromo-pyridin-2-ylmethyl)-N-methoxy-methane sulfonamide
To a stirred solution of N-(5-Bromo-pyridin-2-ylmethyl)-O-methyl-hydroxylamine (0.6 g, 2.765 mmol) in tetrahydrofuran (10 mL) is added sodium bis(trimethylsilyl)amide (0.6 g, 3.318 mmol) and mesyl chloride (0.37 g, 3.318 mmol) at 0° C. The reaction mixture is stirred at room temperature for 16 hours. Reaction mixture diluted with saturated ammonium chloride solution and extracted with ethyl acetate. Organic layer is dried over sodium sulphate, solvent is evaporated in vacuo and purified by flash chromatography using 20% ethyl acetate in hexane as an eluent to afford the title compound (0.3 g). 1HNMR (400 MHz, DMSO-d6) δ: 3.14 (s, 3H), 3.47 (s, 3H), 4.40 (s, 2H), 7.50 (d, J=8.28 Hz, 1H), 8.09-8.12 (dd, J1=2.8 Hz, J2=8.4 Hz, 1H), 8.71 (d, J=2.36 Hz, 1H). LC-MS (m/z): [M+H]=297.1.

reactant | N-(5-Bromo-pyridin-2-ylmethyl)-O-methyl-hydroxylamine | 2.765 mmol, 0.6 g | BrC=1C=CC(=NC1)CNOC | C7H9BrN2O
reactant | sodium bis(trimethylsilyl)amide | 3.318 mmol, 0.6 g | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | mesyl chloride | 3.318 mmol, 0.37 g | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | ammonium chloride | [Cl-].[NH4+]
product | N-(5-Bromo-pyridin-2-ylmethyl)-N-methoxy-methane sulfonamide | 0.3 g | BrC=1C=CC(=NC1)CN(S(=O)(=O)C)OC | C8H11BrN2O3S
